US06051712
37 mg (0.85 mmol) of sodium hydride (55% dispersion in refined oil) were added to a solution of 200 mg (0.56 mmol) of tert-butyl (3RS,4RS,5SR)-4-(4-chloro-phenyl)-3-hydroxy-5-propyl-piperidine-1-carboxylate and 188 mg (0.85 mmol) of 2-bromomethylnaphthalene in 10 ml of dimethylformamide and the reaction mixture was stirred at room temperature for 5 hours. For the working-up, the reaction mixture was evaporated in an oil pump vacuum, the residue was partitioned between water and ether and thereafter the separated aqueous phase was extracted five times with 50 ml of ether each time. The combined ether extracts were washed with saturated sodium chloride solution, dried over sodium sulphate and evaporated under reduced pressure. For purification, the crude product was chromatographed on silica gel using a 96:4 mixture of toluene and ethyl acetate as the eluent. There were obtained 215 mg (77% of theory) of tert-butyl (3RS,4RS,5SR)-4-(4-chloro-phenyl)-3-naphthalen-2-ylmethoxy-5-propyl-piperidine-1-carboxylate as a colourless oil; MS: 494 (M+H)+.

reactant | sodium hydride | 0.85 mmol, 37 mg | [H-].[Na+]
reactant | tert-butyl (3RS,4RS,5SR)-4-(4-chloro-phenyl)-3-hydroxy-5-propyl-piperidine-1-carboxylate | 0.56 mmol, 200 mg | ClC1=CC=C(C=C1)C1C(CN(CC1CCC)C(=O)OC(C)(C)C)O | C19H28ClNO3
reactant | 2-bromomethylnaphthalene | 0.85 mmol, 188 mg | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | tert-butyl (3RS,4RS,5SR)-4-(4-chloro-phenyl)-3-naphthalen-2-ylmethoxy-5-propyl-piperidine-1-carboxylate | 215 mg, 77% | ClC1=CC=C(C=C1)C1C(CN(CC1CCC)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C30H36ClNO3
